US06252084B1
A mixture of 170 mg (0.42 mmol) of [4-[[3-(2-amino-2-oxoethyl)-1-hexyl-2-methyl-1-H-indol-5-yl]oxy]butanoic acid ethyl ester and 1 mL of 5N NaOH in 20 mL of MeOH was heated to maintain reflux for 2.5 hours, cooled, poured into water and made strongly acidic with 5N HCl. The mixture was extracted with ethyl acetate, dried (Na2SO4), concentrated at reduced pressure and the residue crystallized from MeOH. There was obtained 37 mg (24% yield) of [4-[[3-(2-amino-2-oxoethyl)-1-hexyl-2-methyl-1-H-indol-5-yl]oxy]butanoic acid. mp, 169-170° C.

reactant | 4-[[3-(2-amino-2-oxoethyl)-1-hexyl-2-methyl-1-H-indol-5-yl]oxy]butanoic acid ethyl ester | C(C)OC(CCCOC=1C=C2C(=C(N(C2=CC1)CCCCCC)C)CC(=O)N)=O | C23H34N2O4
reactant | NaOH | 5N, 1 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | HCl | 5N | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 4-[[3-(2-amino-2-oxoethyl)-1-hexyl-2-methyl-1-H-indol-5-yl]oxy]butanoic acid | 24% yield | NC(CC1=C(N(C2=CC=C(C=C12)OCCCC(=O)O)CCCCCC)C)=O | C21H30N2O4
